US06787671B2
trans-Stilbene (50 mg) was dissolved in DMF (2 mL), and OsO4 (355 mg, 1 wt % on poly(4-vinylpyridine)) was added and stirred for 5 min. OXONE (0.683 g) was added in one portion and the reaction had a final volume (2.5 mL). The reaction was stirred at room temperature for 3 hours or until the solution becomes colorless. This usually marks the completion of the reaction which was verified by TLC or GC. The reaction was filtered and washed with EtOAc. The organic filtrate was washed with 1N HCl (30 mL×3) and brine(30 mL), dried over Na2SO4, and the solvent was removed under reduced pressure to obtain the crude product. Benzoic acid was obtained in 96% yield without the need for further purification.

reactant | trans-Stilbene | 50 mg | C1(=CC=CC=C1)\C=C\C1=CC=CC=C1 | C14H12
reactant | OXONE | 0.683 g | OOS(=O)[O-].[K+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | OsO4 | 355 mg | O=[Os](=O)(=O)=O
product | Benzoic acid | 96% yield | C(C1=CC=CC=C1)(=O)O | C7H6O2
